US05104960
Synthesis of 2-(4-Fluorophenyl)-6-hydroxybenzoxazole
4-Aminoresorcinol HCl salt (1.61 g) is dissolved in 10 ml of NMP under nitrogen atmosphere. 4-Fluorobenzoyl chloride (1.91 g) is added all at once and the mixture is heated under reflux for approximately 2 hours. After reflux, the mixture is allowed to cool and is diluted with 60 ml of water. Potassium carbonate (3.5 g) is added and the mixture is stirred. The resulting precipitate is filtered and recrystallized from ethanol and water to yield 1.85 g of the above-named product. The product melts at 225° C.-227° C.

reactant | 4-Aminoresorcinol HCl salt | 1.61 g | Cl.NC1=C(C=C(O)C=C1)O
reactant | 4-Fluorobenzoyl chloride | 1.91 g | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | Potassium carbonate | 3.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | NMP | 10 ml | CN1CCCC1=O | C5H9NO
solvent | water | 60 ml | O | H2O
product | 2-(4-Fluorophenyl)-6-hydroxybenzoxazole | 1.85 g | FC1=CC=C(C=C1)C=1OC2=C(N1)C=CC(=C2)O | C13H8FNO2
